Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gait instability
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI per Dr. ___:
"The pt is a ___ year-old man with DM, Hep C, who presents s/p 
gait
instability and fall as a transfer from ___ additionally found 
to
have dysarthria, L facial asymmetry.   
Pt is a somewhat difficult historian. 
Pt reports over the last several months he had been having more
problems with mobility. Whereas he had done relatively well s/p
b/l hip and knee transplants most recently in ___ and ___,
tolerating ___ well walking independently without assistance, in
the last three months, he started having gradual onset sharp,
severe, electric pain down the back of b/l thighs. He thinks the
sensation does go into his feet but he is not sure. This comes 
at
random, not necessarily brought on by exertion and when it is
present, it lasts for several days of the week, impairing his
mobility as it is worse with standing/walking when it is 
present.
This was gradual in onset and has actually been getting better 
as
it used to occur ___ days of the week and now occurs ___ days of
the week. 
He has also noticed that he has been losing his balance more 
than
usual. At times when walking, he needs to reach out his hand to
stabilize himself on something. He does not use a cane or walker
at baseline. He has not fallen recently before the two events
described below. 
In regards to recent events, he walked more than usual this
___ and ___ and felt subjectively that his thighs were
weaker afterwards - his function was not limited by this and 
this
is not a baseline phenomena. He was getting ready for ___ 
___
and was returning from shopping on ___, holding 
shopping
bags in both hands when he felt that "legs picked up speed" 
going
"faster than his body" causing him to fall. He denies tripping,
any weakness causing him to fall, or any sudden dizziness. After
the fall, he was unable to get up on his own which was also very
unusual for him. He went to an outside hospital where they sent
him home shortly afterwards. 
Then today ___, he was again carrying boxes when he felt
the same phenomena occur leading to another fall. 
He denies any progressive difficulty with his gait - but he does
note that some days he limps with his right leg and some days he
limps with his left leg which is partly (but not completely) 
pain
mediated. 
When asked about his slurred speech - it is not a complaint he
brings up on his own - he remarks that it may have been there 
for
the last month but fluctuates and may be related to dry mouth.
Improves when drinking water to the point where he says that his
speech is normal but he notes that his voice is "lower" and
"raspy". On my observation, while his speech does improve after
drinking some water, he is still dysarthric."

 
Past Medical History:
PMH:
- s/p b/l hip and knee replacements - most recent hip
replacements in ___ and ___
- Hepatitis C, ?cirrhosis- reportedly from transfusion after
first hip replacement - Last HCV RNA quant PCR in BI system is
___ (<15) and HCV RNA Quant 6 (<1.18)on ___ 
- DM - Last HbA1C 7.9on ___
- Headache - ___ consistent with tension headache by
description - used to take Fioricet frequently until around 90
days ago when provider when advised to stop. 
- HLD
- HTN
- Depression

 
Social History:
___
Family History:
Father - MI at age ___
 
Physical Exam:
Physical Exam:
Vitals:97.8F, HR 66, 104/73, RR 18, 96% on RA

General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: No nuchal rigidity
Pulmonary: CTAB
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: obese, soft, NT/ND, normoactive bowel sounds
Extremities: No ___ edema. No pain on straight leg raise b/l. 
Skin: Many abrasions on arms and legs/knees from fall. 

Neurologic:

-Mental Status: Alert, oriented to person, place, month, year. 
Attentive, able to name ___ backward without difficulty. 
Language is fluent with intact
repetition and comprehension. Able to read without difficulty. 
Speech mildly dysarthric. 
Can perform two step command. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI. 
Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: L NLFF compared to R at rest. Both sides activate but L
slower than R and not to the same degree. Subtle difference and
could be within the realm of normal but pt unable to say
definitively
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes with very mild deviation to left. ?Poor
effort with tongue strength testing appears weak bilaterally.

-Motor: Normal bulk, tone throughout. Mild pronation of right
arm. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  4+  5    4+ 5     5     5   5

-Sensory: No deficits to light touch, pinprick. Decreased
proprioception at b/l toes. Intact at the ankles. No extinction
to DSS.

-DTRs:
  Bi ___ Pat Ach
L  0    1    0   0
R  0    1    0   0
Unable to obtain perhaps secondary to patient's inability to
relax. Brachiaradialis was only able to be obtained from hitting
muscle belly, not tendon. 
L toe withdrawal, R toe down. No ankle clonus. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF. HKS was more difficult due to hip
replacements but no ataxia. 

-Gait: Slow to initiate, mildly unsteady. Very small steps,
mildly wide based. Stooped posture. Appeared antalgic, avoiding
his R leg - but pt also denied pain. Mild sway with Romberg. 

 
Pertinent Results:
___ 06:15AM   VIT B12-507
___ 06:15AM   TOT PROT-6.5
___ 11:39PM   ALBUMIN-4.5 CALCIUM-10.2 PHOSPHATE-3.3 
MAGNESIUM-1.8
___ 11:39PM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 11:39PM   WBC-7.1 RBC-4.06* HGB-12.5* HCT-37.0* MCV-91 
MCH-30.8 MCHC-33.8 RDW-13.6 RDWSD-45.5
___ 11:39PM   NEUTS-58.6 ___ MONOS-6.5 EOS-2.5 
BASOS-1.3* IM ___ AbsNeut-4.18 AbsLymp-2.17 AbsMono-0.46 
AbsEos-0.18 AbsBaso-0.09*
___ 11:39PM   PLT COUNT-186
___ 11:39PM   ___ PTT-31.7 ___ year-old man with DM, Hep C,hx of heavy etoh use who 
presented as OSH transfer with gait instability and fall. 
Additionally found to
have dysarthria. Per pt gait instability began 3 months ago 
after he joined the gym. States is mostly related to pain in 
hamstrings rather than weakness. Exam notable for antalgic gait 
and sensory deficit in b/l ___ most prominent in distal ext. Also 
mild weakness in b/l ___. Etiology of gait instability most 
likely multi factorial including DJD, neuropathy from DM and 
previous longstanding etoh use. Pt was evaluated by ___ who 
recommended outpt ___ and walking roller. Concerning his 
dysarthria (not noted by patient), he underwent MRI brain w/o 
contrast. MRI showed nonspecific periventricular and subcortical 
white matter changes, w/o e/o intra-cranial process that could 
explain symptoms. At this point etiology of dysarthria is 
unclear. Pt was noted to be on several medications known to slow 
cognition including Ativan, amitryptiline, and oxybutynin which 
could possibly contribute to his symptoms. These medications 
were being held during admission and restarted upon d/c. Pt was 
encouraged to discuss with PCP possibly discontinuing these 
meds. Pt was discharged in stable condition, able to ambulate 
with walker safely. Pt has been instructed to follow up in 
neurology clinic with Dr. ___. Appointment was arranged 
prior to discharge. Pt instructed to follow up earlier if need 
arises. All discharge instructions were explained to pt and pt 
voiced understanding. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
2. glimepiride 4 mg oral DAILY 
3. Januvia (sitaGLIPtin) 100 mg oral DAILY 
4. MetFORMIN (Glucophage) 850 mg PO BID 
5. LORazepam 1 mg PO BID:PRN anxiety 
6. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. Oxybutynin 10 mg PO DAILY 
10. Tamsulosin 0.4 mg PO BID 
11. BuPROPion XL (Once Daily) 300 mg PO DAILY 

 
Discharge Medications:
1. rolling walker ddx gait instbility, prognosis good, ___ 13 
months
2. Losartan Potassium 100 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Oxybutynin 10 mg PO DAILY 
5. Tamsulosin 0.4 mg PO BID 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
7. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 
8. glimepiride 4 mg oral DAILY 
9. LORazepam 1 mg PO BID:PRN anxiety 
10. Januvia (sitaGLIPtin) 100 mg oral DAILY 
11. MetFORMIN (Glucophage) 850 mg PO BID 
12. BuPROPion XL (Once Daily) 300 mg PO DAILY 
13. Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait instability

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were admitted to ___ for further evaluation of gait 
instability and fall. Etiology of these symptoms based on 
history and exam are most likely multifactorial including 
peripheral neuropathy from previous long standing etoh use, 
diabetes, as well as degenerative lumbar disc disease. ___ were 
evaluated by physical therapy who recommended outpatient ___ and 
a rolling walker. ___ were also noted to have dysarthria for 
which ___ underwent a MRI brain which did not show any evidence 
of subacute stroke which could explain the dysarthria. At this 
moment it is unclear what causes the dysarthria.   
 
Followup Instructions:
___